US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (225 mg, 0.67 mmol), (prepared as described for the starting material in Example 1), potassium carbonate (106 mg, 0.77 mmol) and 5-hydroxyquinoline (111 mg, 0.77 mmol) in DMF (7.5 ml) was stirred at 100° C. for 5 hours and allowed to cool to ambient temperature. The reaction mixture was treated with 1.0 N aqueous sodium hydroxide solution (40 ml) and allowed to stir at ambient temperature for a few minutes. The resulting precipitate was filtered off, washed with water and air dried for a short while. The damp solid was dissolved in dichloromethane, filtered through phase separating paper and the filtrate evaporated under vacuum. The residue was triturated with ether, filtered and dried to give 6-methoxy-7-(3-morpholinopropoxy)-4-(quinolin-5-yloxy)-quinazoline (178 mg, 59%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.67 mmol, 225 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | potassium carbonate | 0.77 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxyquinoline | 0.77 mmol, 111 mg | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | sodium hydroxide | 1.0 N, 40 ml | [OH-].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(quinolin-5-yloxy)-quinazoline | 178 mg, 59% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC1=C2C=CC=NC2=CC=C1 | C25H26N4O4
